US08664288B2
1-t-Butyloxycarbonyl-1,3-dicyclohexyl-O—(N-2-butylideneamino)-isourea (Cmpd. 15)
To a solution of 1,3-dicyclohexyl-O—(N-2-butylideneamino)-isourea (Cmpd. 2) (5.87 g, 20 mmol) and 4-dimethylaminopyridine (125 mg) in dichloromethane (25 ml) is added di-t-butyl-dicarbonate (5.96 g, 27.3 mmol). The mixture is stirred 48 h at room temperature, diluted with methanol (2 ml), stirred for an additional hour and evaporated. The residue is chromatographed on silica gel (hexanes-ethyl acetate 3:1) to afford 5.3 g of the title compound as a colorless oil.

reactant | 1,3-dicyclohexyl-O—(N-2-butylideneamino)-isourea | 20 mmol, 5.87 g | C1(CCCCC1)NC(ON=C(C)CC)=NC1CCCCC1 | C17H31N3O
reactant | di-t-butyl-dicarbonate | 27.3 mmol, 5.96 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 125 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | methanol | 2 ml | CO | CH4O
product | 1-t-Butyloxycarbonyl-1,3-dicyclohexyl-O—(N-2-butylideneamino)-isourea | 5.3 g | C(C)(C)(C)OC(=O)N(C(ON=C(C)CC)=NC1CCCCC1)C1CCCCC1 | C22H39N3O3
